US06762318B2
Magnesium turnings (14.6 g, 600 mmol) was placed in a dry 4-necked flask. Dry THF (50 mL) and a crystal of iodine were added. A mixture of 2-(4-bromophenyl)-[1,3]-dioxolane (Tetrahedron, 57, No.28, (2001), 5991-6002) (135 g, 589 mmol) in dry THF (200 mL) was slowly added to initiate the reaction. After the reaction had started, the addition of 2-(4-bromophenyl)-[1,3]-dioxolane was continued at such a rate that the temperature was maintained between 35 and 40° C. After the addition was complete the mixture was stirred for 2 hours and then cooled to 5° C. on an ice bath. Cyclohexanone (57.8 g, 580 mmol) was added dropwise while maintaining the temperature below 10° C. The mixture was stirred for 18 hours at room temperature and two third of the THF was removed in vacuo. The residue was poured into a mixture of ammonium chloride (65 g) in ice water (1 liter) and extracted with ethyl acetate. The organic phase was washed with water, dried (magnesium sulphate), filtered and evaporated in vacuo. The residual oil was slurred in petroleum ether to afford 48 g of 1-(4-[1,3]dioxolan-2yl-phenyl)cyclohexanol as a solid.

reactant | Magnesium | 600 mmol, 14.6 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-(4-bromophenyl)-[1,3]-dioxolane | 589 mmol, 135 g | BrC1=CC=C(C=C1)C1OCCO1 | C9H9BrO2
reactant | Cyclohexanone | 580 mmol, 57.8 g | C1(CCCCC1)=O | C6H10O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(4-[1,3]dioxolan-2yl-phenyl)cyclohexanol | 48 g | O1C(OCC1)C1=CC=C(C=C1)C1(CCCCC1)O | C15H20O3
